US07790895B2
4-(3-Formyl-phenyl)-7-trifluoromethyl-quinoline-3-carboxylic acid ethyl ester (16 mg, 0.034 mmol) was dissolved in ethanol (1 mL) and treated with sodium borohydride (15 mg) in one portion. After stirring at room temperature for 15 min the reaction mixture was quenched with an aqueous solution of ammonium chloride. The reaction mixture was then extracted with ethyl acetate and the organic layer dried over sodium sulfate, concentrated and the residue purified by to column chromatography eluted with 30% ethyl acetate to yield 4-(3-hydroxymethyl-phenyl)-7-trifluoromethyl-quinoline-3-carboxylic acid ethyl ester as a yellow solid.

reactant | 4-(3-Formyl-phenyl)-7-trifluoromethyl-quinoline-3-carboxylic acid ethyl ester | 0.034 mmol, 16 mg | C(C)OC(=O)C=1C=NC2=CC(=CC=C2C1C1=CC(=CC=C1)C=O)C(F)(F)F | C20H14F3NO3
reactant | sodium borohydride | 15 mg | [BH4-].[Na+]
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 4-(3-hydroxymethyl-phenyl)-7-trifluoromethyl-quinoline-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=NC2=CC(=CC=C2C1C1=CC(=CC=C1)CO)C(F)(F)F | C20H16F3NO3
